US09085555B2
C. 5-Allyloxy-3-formyl-indole-1-carboxylic acid amide
To a suspension of NaH (60% in mineral oil, 352 mg, 8.79 mmol) in THF (12 mL) under nitrogen atmosphere at 5° C. was added a solution of 5-allyloxy-1H-indole-3-carbaldehyde (1.18 g, 5.86 mmol) in THF (28 mL) and the resulting mixture was stirred at 5° C. for 30 min before slow addition of chlorosulfonyl isocyanate (11.02 mL, 11.7 mmol) while maintaining the temperature between 5° C. and 10° C. The solution was further stirred at RT for 4 h, acetic acid (11 mL) was added and the solution was stirred at RT for 1 h. Ice cubes and water (100 mL) were added and the mixture was stirred at RT for 30 min. The solution was extracted twice with EtOAc and the combined organic extracts were dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (100% c-hexane to 100% EtOAc) to give the title compound. TLC, Rf (c-hexane/EtOAc 1:2)=0.36; MS (LC/MS): 245.1 [M+H]+, 267.0 [M+Na]+, 200.1 [M−CONH2]−; tR (HPLC conditions a): 2.95 min.

reactant | NaH | 8.79 mmol, 352 mg | [H-].[Na+]
reactant | 5-allyloxy-1H-indole-3-carbaldehyde | 5.86 mmol, 1.18 g | C(C=C)OC=1C=C2C(=CNC2=CC1)C=O | C12H11NO2
reactant | chlorosulfonyl isocyanate | 11.7 mmol, 11.02 mL | ClS(=O)(=O)N=C=O | CClNO3S
reactant | acetic acid | 11 mL | C(C)(=O)O | C2H4O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 28 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 5-Allyloxy-3-formyl-indole-1-carboxylic acid amide | C(C=C)OC=1C=C2C(=CN(C2=CC1)C(=O)N)C=O | C13H12N2O3
